US09403832B2
(S)-2-amino-N—((S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide (220 mg, 0.54 mmol), 2-methoxypyridine-3-boronic acid (164 mg, 1.1 mmol), potassium carbonate (291 mg, 2.15 mmol), Pd(OAc)2 (2 mg, 0.011 mmol) and x-phos (10 mg, 0.022 mmol) were taken up in 2 mL acetonitrile and 1 mL water and heated in a sealed tube at 85° C. for 2 hours. Reaction was then filtered through celite with acetonitrile and DCM reduced in vacuo, then purified on Shimadzu neutral phase prep and product fractions lyophilized to get (S)-2-amino-N—((S)-1-(3-(2-methoxypyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide 41.3 mg as 0.5 eq formic salt. 1H NMR (400 MHz, DMSO-d6) δ 8.87-8.97 (m, 1H), 8.72 (s, 1H), 8.50 (s, 1H), 8.30 (s, 1H), 7.96 (dd, J=2.02, 4.80 Hz, 1H), 7.00-7.11 (m, 1H), 6.51 (d, J=7.83 Hz, 1H), 4.00 (s, 3H), 3.48-3.64 (m, 1H), 3.43 (br. s., 3H), 2.96 (s, 2H), 2.81 (s, 1H), 2.11-2.28 (m, 2H), 1.72-1.89 (m, 1H), 1.19-1.39 (m, 2H), 0.90 (dd, J=1.89, 6.69 Hz, 6H). (ESI) m/z 438 [(M+H)]+, calc'd for C23H31N7O2: 437.5.

reactant | (S)-2-amino-N—((S)-1-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide | 0.54 mmol, 220 mg | N[C@H](C(=O)N(C)[C@@H]1CN(CC1)C1=NC=2N(C=C1)N=CC2Br)CC(C)C | C17H25BrN6O
reactant | 2-methoxypyridine-3-boronic acid | 1.1 mmol, 164 mg | COC1=NC=CC=C1B(O)O | C6H8BNO3
reactant | potassium carbonate | 2.15 mmol, 291 mg | C([O-])([O-])=O.[K+].[K+]
reactant | x-phos | 0.022 mmol, 10 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.011 mmol, 2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 1 mL | O | H2O
product | (S)-2-amino-N—((S)-1-(3-(2-methoxypyridin-3-yl)pyrazolo[1,5-a]pyrimidin-5-yl)pyrrolidin-3-yl)-N,4-dimethylpentanamide | 41.3 mg | N[C@H](C(=O)N(C)[C@@H]1CN(CC1)C1=NC=2N(C=C1)N=CC2C=2C(=NC=CC2)OC)CC(C)C | C23H31N7O2
